US04772600
2-(5-Bromo-2-furanyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(5-bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine acetic acid (5.0 g, 0.0155 mole), 1,1'-carbonyldiimidazole (2.52 g, 0.0155 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2.5 hours with a stream of nitrogen bubbling through it. A solution of dipropylamine 4.71 g, 0.046 mole) in tetrahydrofuran (6 ml) was added and the reaction mixture was refluxed for 15 hours, then stirred at room temperature. The solvents were removed under reduced pressure, and the resulting oil was partitioned between ethyl acetate (100 ml) and water (100 ml). The layers were separated, and the aqueous layer was re-extracted with ethyl acetate. The combined organic layers were washed with water, twice with a 5% potassium hydroxide solution and twice again with water, dried with magnesium sulfate, charcoaled, and filtered. The solvent was removed under reduced pressure to give an oil which crystallized upon trituration with isopropyl ether. The solid was collected by filtration and dried under high vacuum to give 2.0 g (32%) of title compound, mp 102°-104° C.

reactant | 2-(5-bromo-2-furanyl)-3H-imidazo[4,5-b]pyridine acetic acid | 0.0155 mole, 5.0 g | BrC1=CC=C(O1)C1(NC=2C(=NC=CC2)N1)CC(=O)O | C12H10BrN3O3
reactant | 1,1'-carbonyldiimidazole | 0.0155 mole, 2.52 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.046 mole, 4.71 g | C(CC)NCCC | C6H15N
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(5-Bromo-2-furanyl)-N,N-dipropyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.0 g, 32% | BrC1=CC=C(O1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CCC)CCC | C18H21BrN4O2
